US03985723
A mixture of 7.4 mmol of L-valine, 10 ml of dimethyl sulfoxide and 23 mmol of sym-trichlorotrifluoroacetone was stirred at room temperature for 24 hours in a flask protected from atmospheric moisture. A complete solution was obtained within the first hour. The progress of the reaction was followed by taking samples periodically and submitting them to gas-liquid chromatographic analysis. The reaction mixture was poured into 50 ml of ice water and the resultant mixture was extracted thrice with n-butanol and chromatographed on a column packed with silica gel. N-trifluoroacetylvaline, melting at 88°-89° C., was obtained in a yield of 94 percent.

reactant | L-valine | 7.4 mmol | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | trichlorotrifluoroacetone | ClC(C(=O)C(F)(F)F)(Cl)Cl | C3Cl3F3O
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | N-trifluoroacetylvaline | yield of 94 percent | FC(C(=O)N[C@@H](C(C)C)C(=O)O)(F)F | C7H10F3NO3
